US05283296
0.2 g of lauroyl peroxide.
80 g of water, 2 g of 40.7% by weight aqueous solution of partially sulphated, ethoxylated nonylphenol containing 25 units of ethylene oxide, 3 g of a 20% by weight aqueous solution of sodium dodecylbenzenesulphonate and 60 mg of ethylenediaminetetraacetic acid (EDTA) are mixed in a beaker.

reactant | ethylene oxide | C1CO1 | C2H4O
reactant | sodium dodecylbenzenesulphonate | C(CCCCCCCCCCC)OS(=O)(=O)C1=CC=CC=C1.[Na]
reactant | ethylenediaminetetraacetic acid | 60 mg | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | water | 80 g | O | H2O
product | lauroyl peroxide | C(CCCCCCCCCCC)(=O)OOC(CCCCCCCCCCC)=O | C24H46O4
